US08242151B2
7-chloro-2-ethyl-3H-imidazo[4,5-b]pyridine
2-Ethyl-3H-imidazo[4,5-b]pyridine (U.S. Pat. No. 5,332,744; 4.00 g, 27.2 mmol) was dissolved in chloroform (45 mL), and the solution was added with m-chloroperbenzoic acid (5.18 g, 29.9 mmol) followed by stirring at room temperature for 5 hr. The reaction mixture was concentrated, added with ethyl acetate and water, and partitioned between ethyl acetate and water. The aqueous layer was concentrated and the residue was dissolved in chloroform (8 mL). Phosphorus oxychloride (24 mL, 257 mmol) was added thereto and the mixture was stirred at room temperature for 2 hr. The reaction mixture was poured onto ice, neutralized with aqueous ammonia, and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. Ethyl acetate (30 mL) was added to the residue and the precipitated solid was collected by filtration to give the title compound (3.32 g, 67%).

reactant | 2-Ethyl-3H-imidazo[4,5-b]pyridine | C(C)C1=NC=2C(=NC=CC2)N1 | C8H9N3
reactant | m-chloroperbenzoic acid | 29.9 mmol, 5.18 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | Phosphorus oxychloride | 257 mmol, 24 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonia | N | H3N
solvent | chloroform | 45 mL | C(Cl)(Cl)Cl | CHCl3
product | 7-chloro-2-ethyl-3H-imidazo[4,5-b]pyridine | 3.32 g, 67% | ClC1=C2C(=NC=C1)NC(=N2)CC | C8H8ClN3
